US06958350B2
b) N-[1-(3,4-Dichlorobenzyl)-piperidin-4-yl]-2-(5-phenylamino-[1,3,4]oxadiazol-2-yl)-acetamide
Isothiocyanato-benzene (0.1 ml) and N-[1-(3,4-dichlorobenzyl)-piperidin-4-yl]-2-hydrazinocarbonyl-acetamide (0.10 g) were stirred together in dimethylformamide (2 ml) at ambient temperature for 2 hours. AM resin (0.162 g, Novabiochem, 2% DVB 1.57 mmol/g) was added and the resulting mixture was stirred at ambient temperature for 16 hours. N-cyclohexylcarbodiimide N-methyl polystyrene HL (0.319 g, Novabiochem, 1.69 mmol/g) was added and the resulting mixture was stirred at 80° C. for 24 hours, then allowed to cool. The reaction mixture was then filtered, washing with dimethylformamide (2×2 ml). The combined filtrates were evaporated and the residue was purified by reverse phase HPLC to give the title compound as a white solid. (0.045 g, m.pt 191-217° C., MS [M+H]+ (APCI+) 460/462).

reactant | Isothiocyanato-benzene | 0.1 ml | N(=C=S)C1=CC=CC=C1 | C7H5NS
reactant | N-[1-(3,4-dichlorobenzyl)-piperidin-4-yl]-2-hydrazinocarbonyl-acetamide | 0.10 g | ClC=1C=C(CN2CCC(CC2)NC(CC(=O)NN)=O)C=CC1Cl | C15H20Cl2N4O2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-[1-(3,4-Dichlorobenzyl)-piperidin-4-yl]-2-(5-phenylamino-[1,3,4]oxadiazol-2-yl)-acetamide | ClC=1C=C(CN2CCC(CC2)NC(CC=2OC(=NN2)NC2=CC=CC=C2)=O)C=CC1Cl | C22H23Cl2N5O2
